US04705795
In a solution under reflux of 58.6 ml (0.50 mole) of 3-methylpiperidine in 65 ml of benzene, were run in 25 minutes 27.2 g (0.25 mole) of 4-chlorobutyronitrile Reflux was continued for 2h, the precipitate was removed by filtration and the filtrate brought to dryness under reduced pressure. The residue from the evaporation was purified by distillation under reduced pressure to give 29.2 g (yields=70.3%) of 4-(3-methylpiperidino)-butyronitrile which was in the form of a colourless oil. Boiling point 5-6 mmHg =100° C.

reactant | 3-methylpiperidine | 0.50 mole, 58.6 ml | CC1CNCCC1 | C6H13N
reactant | 4-chlorobutyronitrile | 0.25 mole, 27.2 g | ClCCCC#N | C4H6ClN
solvent | benzene | 65 ml | C1=CC=CC=C1 | C6H6
product | 4-(3-methylpiperidino)-butyronitrile | 29.2 g, 70.3% | CC1CN(CCC1)CCCC#N | C10H18N2
